US06524764B1
11.4 g (0.05 mol) of bisphenol A (result of calculation of dipole moment based on MOPAC-97=2.1 debye) and 34.9 g (0.13 mol) of 5-naphthoquinone diazide sulphonyl chloride were dissolved in 400 g of 1,4-dioxane under a current of dry nitrogen, and then warmed to 40° C. To this there was added, dropwise, 13.1 g (0.13 mol) of triethylamine mixed with 40 g of 1,4-dioxane, and then naphthoquinone diazide compound (4) was obtained in the same way as in Synthesis Example 1. (As an average, 1.3 of the Q groups=5-naphthoquinone diazide sulphonyl groups and 0.7=hydrogen.)

reactant | bisphenol A | 0.05 mol, 11.4 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | 5-naphthoquinone diazide sulphonyl chloride | 0.13 mol, 34.9 g | S(=O)(=O)(Cl)Cl.[N-]=[N+]=[N-].[N-]=[N+]=[N-].C1(C=CC=C2C(C=CC=C12)=O)=O
reactant | triethylamine | 0.13 mol, 13.1 g | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 400 g | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 40 g | O1CCOCC1 | C4H8O2
product | naphthoquinone diazide | [N-]=[N+]=[N-].[N-]=[N+]=[N-].C1(C=CC(C2=CC=CC=C12)=O)=O | InChI=1S/C10H6O2.2N3/c11-9-5-6-10(12)8-4-2-1-3-7(8)9;2*1-3-2/h1-6H;;/q;2*-1
